US04189433
28.6 g of 7-nitro-4-benzyloxy-1,2-benzisothiazole are added in portions to a boiling mixture of 67 ml of water, 30 g of iron powder, 3 ml of glacial acetic acid and 167 ml of n-propanol and the mixture is then refluxed for a further hour. When it has cooled, it is neutralized with concentrated ammonia solution and filtered. The filter residue is washed with methylene chloride and the combined wash solutions are dried over magnesium sulfate and freed from the solvent under reduced pressure. 25.1 g (100% of theory) of 7-amino-4-benzyloxy-1,2-benzisothiazole of melting point 126°-128° C. are obtained.

reactant | 7-nitro-4-benzyloxy-1,2-benzisothiazole | 28.6 g | [N+](=O)([O-])C1=CC=C(C=2C=NSC21)OCC2=CC=CC=C2 | C14H10N2O3S
reactant | water | 67 ml | O | H2O
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | ammonia | N | H3N
catalyst | iron | 30 g | [Fe] | Fe
solvent | n-propanol | 167 ml | C(CC)O | C3H8O
product | 7-amino-4-benzyloxy-1,2-benzisothiazole | 25.1 g, 100% | NC1=CC=C(C=2C=NSC21)OCC2=CC=CC=C2 | C14H12N2OS
